US06455550B1
4-Amino-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester (66 mg, 0.17 mmol) and 2,6-dichlorobenzoyl chloride (50 mg, 0.23 mmol) were dissolved in 5 mL of dichloromethane and 2,6-lutidine (50 μL, 0.43 mmol) were added. After 4 hours, the mixture was diluted with ether and dichloromethane and washed with 1 N HCl, water, and saturated NaHCO3 and was dried (MgSO4). The crude product was dissolved in methanol (4 mL) and treated with 4 N NaOH (0.1 mL). After 2 hours, the excess base was quenched with acetic acid (0.1 mL), the solution was filtered through a 0.2μ nylon filter and the filtrate was purified by RP-HPLC on a 4×30 cm Rainin C-18 column using a gradient of 5 to 95% acetonitrile:water containing 0.75% trifluoroacetic acid at a flow of 49 mL/min over 35 min. The peak eluting at 79% acetonitrile was concentrated and lyophilized to give 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine (28.2 mg), HR-FABMS: obs. mass 591.1445. Calcd. mass 591.1430 (M+Na).

reactant | 4-Amino-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.17 mmol, 66 mg | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)N)=O | C24H30N2O4
reactant | 2,6-dichlorobenzoyl chloride | 0.23 mmol, 50 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | 2,6-lutidine | 0.43 mmol, 50 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine | 28.2 mg | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCC2)CC2=CC=C(C=C2)OC)C(=O)O)C=C1 | C30H30Cl2N2O5
